US08729078B2
A mixture of 5-[2-acetoxymethyl-3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid methyl ester (237 mg, 0.486 mmol) in saturated NH3/MeOH (20 mL) was stirred at room temperature for 48 h. The mixture was evaporated to dryness to give 5-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid methyl ester (150 mg, yield 68%) as a yellow solid. LC-MS calcd for C26H27N3O4 (m/e) 445.20, obsd 913 [2M+Na]+.

reactant | 5-[2-acetoxymethyl-3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid methyl ester | 0.486 mmol, 237 mg | COC(=O)C=1N(C(=CC1)C1=C(C(=CC=C1)N1C(C2=CC=C(C=C2C=N1)C(C)(C)C)=O)COC(C)=O)C | C28H29N3O5
solvent | NH3 MeOH | 20 mL | N.CO
product | 5-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid methyl ester | 150 mg, yield 68% | COC(=O)C=1N(C(=CC1)C1=C(C(=CC=C1)N1C(C2=CC=C(C=C2C=N1)C(C)(C)C)=O)CO)C | C26H27N3O4
